Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
metoclopramide / codeine / lisinopril / prochlorperazine / 
ceftriaxone / Zosyn
 
Attending: ___.
 
Chief Complaint:
fevers
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Ms. ___ is a ___ year old female w/ h/o HTN, diastolic CHF,
and recent admission (___) to ___ for MSSA
bacteremia in ___ who presents initially to OSH with
complaints of not feeling well. Pt states that last night at 9pm
she developed acute onset of nausea and states that everything
got weak and she lowered to the ground.  She felt like she was
going to pass out but did not. In the OSH ER, pt had normal EKG
and troponin  was negative.  Pt did have labs which revealed a
new transaminitis; however pt denies any acute 
abdominal pain. At ___, she dad work up for possible
infection-- negative pro-calcitonin-negative CTA no ___
negative. New transamintitis. Abdominal ultrasound negative.
Hepatitis panel which negative other than hep B immunity. Blood
cultures are pending. ID at ___ saw her, recommended
Vancomycin/Zosyn. Flu swab- negative. Today, she was febrile to
104 rectal temp. All blood cultures have been negative.  Lumbar
and Cervical MRI done given concern for possible epidural
abscess- read pending. 

In regards to her recent admission, the patient presented to
___ for sudden onset of L buttock pain, fever,
leukocytosis up to 20,000 and was found to have MSSA bacteremia. 

She has an TTE with no vegetation, lyme/anaplasma, elevated CRP.
She had a L spine MRI with only disc bulge. MRI hip with no
septic arthritis. They thought the MSSA bacteremia was from a
soft tissue injury. She was then discharged on ___ on 4 weeks
of IV Rocephin. ___- Surveillance blood cultures negative at
outpatient ID follow up. 

Vitals: T:  Tmax: 104  BP:101/60   HR: 80  RR:20   O2 Sat: 96%RA

- Labs notable for:  
AST/ALT 144/220
Cr 0.4

- OSH Imaging notable for:  
___: Normal ___. No DVT
CTA: No evidence of PE, no focal lung infiltrates are seen, no
thoracic aortic aneurysm or dissection is seen.
RUQUS: Normal.
Physician from ___ "Dr. ___ shows
hyperenhancement that is more pronounced from scan from 
___.
 
On the floor,  patient endorses the above story. She denies any
current pain including abdominal, chest pain, SOB, rashes, tick
bites, headache. In terms of the nausea, she felt very hot and
then felt nauseous. She then took Tylenol and ibuprofen and her
nausea went away. She also denies any joint pain, joint
stiffness, back pain,  buttock pain, sick contacts, recent
travel, dental procedures.
 
Past Medical History:
hypertension 
HFpEF 
osteoarthritis 
b12 deficiency 
___ at ___ MSSA bacteremia, weakness. 
 
Social History:
___
Family History:
Other had a brain neurysm at ___. Father had CVA
and died at ___.
 
Physical Exam:
ADMISSION EXAM
VITALS: 99.4 PO 110 / 65 L Sitting 84 18 97 Ra  
GENERAL: AOx3, NAD  
HEENT: Normocephalic, atraumatic. Sclera anicteric and without
injection. Moist mucous membranes, good dentition. Oropharynx is
clear.  
NECK: Supple
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. No JVD.  
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
No increased work of breathing.
BACK: No spinous process tenderness. no CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema, no sign of
atrophy/hypertrophy. Pulses DP/Radial 2+ bilaterally. No
erythematous joints. 
SKIN: No evidence of ulcers, rash or lesions suspicious for
malignancy  
NEUROLOGIC: CN2-12 intact. ___ strength througout. Normal
sensation.  

DISCHARGE EXAM
VITALS: ___ 0625 Temp: 98.9 PO BP: 148/73 L Lying HR: 82 
RR:
18 O2 sat: 94% O2 delivery: Ra  
GENERAL: AOx3, NAD  
HEENT: Normocephalic, atraumatic. Sclera anicteric and without
injection. Moist mucous membranes, good dentition. Oropharynx is
clear.  
NECK: Supple
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. No JVD.  
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
No increased work of breathing.
BACK: No spinous process tenderness. no CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema, no sign of
atrophy/hypertrophy. Pulses DP/Radial 2+ bilaterally. No
erythematous joints. 
SKIN: No evidence of ulcers, rash or lesions suspicious for
malignancy  
NEUROLOGIC: CN2-12 intact. ___ strength througout. Normal
sensation.  
 
Pertinent Results:
ADMISSION LABS

___ 03:18AM BLOOD WBC-4.6 RBC-3.23* Hgb-9.1* Hct-27.8* 
MCV-86 MCH-28.2 MCHC-32.7 RDW-13.2 RDWSD-41.5 Plt ___
___ 04:15AM BLOOD Neuts-63.8 Lymphs-18.4* Monos-10.8 
Eos-6.2 Baso-0.6 Im ___ AbsNeut-3.20 AbsLymp-0.92* 
AbsMono-0.54 AbsEos-0.31 AbsBaso-0.03
___ 03:18AM BLOOD ___ PTT-27.0 ___
___ 03:18AM BLOOD Glucose-121* UreaN-10 Creat-0.6 Na-139 
K-3.0* Cl-100 HCO3-26 AnGap-13
___ 03:18AM BLOOD ALT-155* AST-74* AlkPhos-265* TotBili-0.5
___ 03:18AM BLOOD Calcium-8.3* Phos-3.4 Mg-1.9
___ 03:18AM BLOOD CRP-136.6*
___ 05:44AM BLOOD Vanco-20.7*

MICRO
BLOOD CULTURES X 6 NGTD

IMAGING
TTE

The left atrium is mildly dilated. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). Right ventricular chamber size and free 
wall motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. No masses or 
vegetations are seen on the aortic valve. The mitral valve 
leaflets are mildly thickened. No mass or vegetation is seen on 
the mitral valve. There is mild pulmonary artery systolic 
hypertension. There is a trivial/physiologic pericardial 
effusion. There is an anterior space which most likely 
represents a prominent fat pad. 

IMPRESSION: No vegetations or clinically-significant regurgitant 
valvular disease seen (adequate-quality study). Normal global 
and regional biventricular systolic function. 

In presence of high clinical suspicion, absence of vegetations 
on transthoracic echocardiogram does not exclude endocarditis. 

TEE
There is no spontaneous echo contrast or thrombus in the body of 
the left atrium/left atrial appendage.
The left atrial appendage ejection velocity is normal. No 
spontaneous echo contrast or thrombus is seen
in the body of the right atrium/right atrial appendage. There is 
no evidence for an atrial septal defect by
2D/color Doppler. Global systolic function is normal (LVEF 
greater than 55%). The right ventricle has
normal free wall motion. There are simple atheroma in the aortic 
arch and simple atheroma in the descending
aorta. The aortic valve leaflets (3) are mildly thickened. No 
masses or vegetations are seen on
the aortic valve. No abscess is seen. There is no aortic 
regurgitation. The mitral leaflets are mildly thickened
with no mitral valve prolapse. No masses or vegetations are seen 
on the mitral valve. No abscess is
seen. There is physiologic mitral regurgitation. No 
masses/vegetations are seen on the pulmonic valve.
No abscess is seen. The tricuspid valve leaflets appear 
structurally normal. No mass/vegetation are seen
on the tricuspid valve No abscess is seen. There is physiologic 
tricuspid regurgitation.

___ OPINION MRI L SPINE
1. Enhancing STIR hyperintense abnormal marrow signal centered 
along the left
L5-S1 facet with some involvement of the left L4-L5 facets.  
There is hazy
enhancement of the L5-S1 facet, with mild encroachment on the 
left lateral
aspect of the epidural space and subarticular zone, contacting 
the left
traversing S1 nerve root and extending to the left S1-S2 
epidural space. 
Associated enhancing left paraspinal muscle STIR hyperintense 
signal spanning
L3-L4 through L5-S1 is identified.
2. There is no definite clumping or enhancement of the cauda 
equina, however
the traversing left S1 nerve root does appear to demonstrate 
enhancement.
3. The constellation of findings is highly suspicious for septic 
arthritis
centered in the left L5-S1 facet joint with paraspinal myositis 
given history
of bacteremia.  Differential consideration of prominent 
degenerative changes
is considered less likely given the degree of enhancement and 
surrounding
inflammatory changes.
4. There is a small 6 mm cystic component arising from the left 
L5-S1 facet
along the dorsal epidural space, likely representing a synovial 
cyst and/or
microabscess.

CXR PICC PLACEMENT
IMPRESSION: 
 
No acute cardiopulmonary abnormality.  Satisfactory positioning 
of a
right-sided PICC.
 
DISCHARGE LABS
___ 06:07AM BLOOD WBC-5.8 RBC-3.19* Hgb-9.0* Hct-27.8* 
MCV-87 MCH-28.2 MCHC-32.4 RDW-13.3 RDWSD-42.1 Plt ___
___ 06:07AM BLOOD Neuts-63.2 ___ Monos-12.2 Eos-3.6 
Baso-0.5 Im ___ AbsNeut-3.83 AbsLymp-1.23 AbsMono-0.74 
AbsEos-0.22 AbsBaso-0.03
___ 06:07AM BLOOD Plt ___
___ 06:07AM BLOOD Glucose-161* UreaN-11 Creat-0.9 Na-144 
K-3.6 Cl-104 HCO3-24 AnGap-16
___ 06:07AM BLOOD ALT-96* AST-37 AlkPhos-281* TotBili-0.3
___ 06:07AM BLOOD Calcium-8.5 Phos-3.6 Mg-1.9
___ 06:07AM BLOOD Vanco-23.1*
 
Brief Hospital Course:
Ms. ___ is a ___ year old female w/ h/o HTN, diastolic CHF, 
and recent admission (___) to ___ for MSSA 
bacteremia who is transferred to ___ for fever and 
transaminitis, attributed to drug reaction from CTX and found to 
discitis/septic arthritis of the L5-S1 facet joint on MRI 
L-spine.

ACUTE ISSUES:
#ERROR!

#MSSA Bacteremia
#L5-S1 septic arthritis/discitis : Recent discharge for MSSA
bacteremia, treated with CTX with no clear source found. Patient
presented with recurrent fevers and low back with MRI L-spine 
showing hyperenhancement of L5-S1 facet joint c/f 
discitis/septic
arthritis, confirmed on second read here. CRP elevated 136. ESR
29. Deferversced on vancomycin and discontinuation of CTX (it 
was suspected that fevers may have also been due to drug 
reaction from CTX, in addition to discitis/septic arthritis).
TTE/TEE without any evidence of IE or abscesses. Plan for an
extend course of vancomycin (avoiding pencillins/cephalosporins 
given below) for treatment of underlying joint infection for an 
additional ___ weeks from ___ (end of 4 week course of MSSA 
bacteremia). 

# Transaminitis: Patient presents with new transaminitis without
any concerning findings on RUQUS. Likely related to drug 
reaction
to ceftriaxone and cross reactivity with zosyn. Hepatitis 
serologies negative at ___. Now downtrending with 
discontinuation of Zosyn. Will need repeat within 1 week. 

# HFpEF: Patient reports seeing cardiologist for the first time
after she was volume overloaded after receiving IVF in ___
for sepsis. Unclear if patient actually has HFpEF. No evidence 
of
this on TTE here. 

CHRONIC ISSUES:
#ERROR!

# HTN: Hold valsartan-HCTZ, metoprolol in the setting of normal
BP pressures. Assess if patient needs these. 

#OA: Continue ibuprofen PRN

#Hot Flashes: Continue velafaxine

TRANSITIONAL ISSUES
#ERROR!
- Repeat LFTs in 1 week to ensure normal. 
- Continue vancomycin for up to 4 additional weeks (end date 
___
- Please recheck vancomycin trough after 4th dose (AM dose of 
___
- VANCOMYCIN: WEEKLY: CBC with differential, BUN, Cr, Vancomycin
trough *PLEASE OBTAIN WEEKLY CRP
-ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___
-All questions regarding outpatient parenteral antibiotics after
discharge should be directed to the ___ R.N.s at
___ or to the on-call ID fellow when the clinic is
closed. 
-Held metop/valsartan-HCTZ as patient remained normotensive 
while in the hospital. Assess if patient needs these. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. valsartan-hydrochlorothiazide 80-12.5 mg oral DAILY 
2. Venlafaxine 37.5 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Ibuprofen 400 mg PO Q6H:PRN Pain - Mild 
5. Pantoprazole 40 mg PO Q24H 

 
Discharge Medications:
1.  Vancomycin 1000 mg IV Q 12H 
RX *vancomycin 1 gram 1 g IV every twelve (12) hours Disp #*56 
Vial Refills:*0 
2.  Ibuprofen 400 mg PO Q6H:PRN Pain - Mild  
3.  Metoprolol Succinate XL 25 mg PO DAILY  
4.  Pantoprazole 40 mg PO Q24H  
5.  valsartan-hydrochlorothiazide 80-12.5 mg oral DAILY  
6.  Venlafaxine 37.5 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
MSSA Bacteremia
Transaminitis 
L5-S1 discitis/septic arthritis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were transferred to ___ from ___ with fevers and 
abnormal liver tests. We think this was due to the antibiotics 
you were on. You had an MRI spine done there which showed an 
infection of the bone/joint in your spine. Our radiologists 
reviewed the images and confirmed this. You will need 
antibiotics for additional ___ weeks. We switched your 
antibiotics and your liver enzymes improved. It is now safe for 
you to go home. 
 
Followup Instructions:
___